US07683185B2
6-Benzenesulfonyl-hexa-2,4-dienoic acid (10a).
To a solution of the 6-benzenesulfonyl-hexa-2,4-dienoic acid methyl ester (0.70 g, 2.60 mmol) in methanol (8 mL) were added a aqueous sodium hydroxide 1M, 6.0 mL, 6 mmol) and distilled water (20 mL). After stirring at reflux for 1 hour, the mixture was allowed to cool to 20° C. and was concentrated under reduced pressure. The aqueous solution was washed with diethyl ether (50 mL) and then poured onto a mixture of ethyl acetate (50 mL) and hydrochloric acid (2M, 5 mL) at 0° C. The organic layer was washed successively with saturated aqueous sodium hydrogen carbonate (20 mL), distilled water (20 mL), and brine (20 mL), then dried over anhydrous MgSO4, filtered and concentrated under reduced pressure to give a pale yellow solid that was recrystallised from ethyl acetate to give the title compound (0.58 g, 87%) as a white solid, mp 148-150° C.

reactant | 6-benzenesulfonyl-hexa-2,4-dienoic acid methyl ester | 2.60 mmol, 0.70 g | COC(C=CC=CCS(=O)(=O)C1=CC=CC=C1)=O | C13H14O4S
reactant | sodium hydroxide | 6 mmol, 1M, 6.0 mL | [OH-].[Na+]
solvent | methanol | 8 mL | CO | CH4O
product | 6-Benzenesulfonyl-hexa-2,4-dienoic acid | 0.58 g, 87% | C1(=CC=CC=C1)S(=O)(=O)CC=CC=CC(=O)O | C12H12O4S
